US06498172B1
3-(3-{[(1-Methyl-1H-imidazole-4-sulfonyl)-(4-pyrazol-1-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step A was prepared from 3-{3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A of Example 11o, and 1-methyl-1H-imidazole-4-sulfonyl chloride following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 7.89 (d, 1H), 7.70 (s, 1H), 7.54 (m, 3H), 7.39 (d, 1H), 7.24 (m, 2H), 7.14 (m, 1H), 7.04-6.97 (m, 3H), 6.45 (m, 1H), 4.43 (s, 2H), 4.40 (s, 2H), 3.74 (s, 3H), 3.65 ), 2.83 (t, 2H), 2.53 (t, 2H); MS 494 (M+1).

reactant | 3-{3-[(4-pyrazol-1-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C21H23N3O2
reactant | 1-methyl-1H-imidazole-4-sulfonyl chloride | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(1-Methyl-1H-imidazole-4-sulfonyl)-(4-pyrazol-1-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)N1N=CC=C1)S(=O)(=O)C=1N=CN(C1)C)=O | C25H27N5O4S
